US05284852
2-Butyl-1,4-dihydro-4-oxo-6-quinazoline-carboxaldehyde
To a solution of 1.0 g of 2-butyl-6-iodo-4-(1H)-quinazolinone and 0.355 g of tetrakis(triphenylphosphine)palladium in 15 ml of tetrahydrofuran and 5 ml of N,N-dimethylformamide, heated to 55° C. under an atmosphere of carbon monoxide is added a solution of 1.40 g of tri-n-butyltin hydride in 2.5 ml of toluene over 6 hours via a syringe pump. After the addition is complete the reaction is allowed to cool to room temperature, diluted with brine and extracted with chloroform. The combined organics are concentrated in vacuo and the resulting residue triturated with ether. The precipitate is collected by filtration and purified by flash chromatography on silica gel, eluting with 1:1 ethyl acetate-hexanes to give 0.35 g of the desired product, m.p. 242°-244° C.

reactant | 2-butyl-6-iodo-4-(1H)-quinazolinone | 1.0 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)I | C12H13IN2O
reactant | tri-n-butyltin hydride | 1.40 g | C(CCC)[SnH](CCCC)CCCC
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
catalyst | tetrakis(triphenylphosphine)palladium | 0.355 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Butyl-1,4-dihydro-4-oxo-6-quinazoline-carboxaldehyde | 0.35 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=O | C13H14N2O2
